US07432270B2
2-[(5-Cyano-pyridin-2-ylamino)methyl]-piperidine-1-carboxylic acid tert butyl ester
The title compound (1.54 g) was prepared from (S)-2-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester (2.0 g) and 2-chloro-5-cyanopyridine (1.29 g) in the presence of diisopropylethylamine (1.21 g) according to the method of D28.

reactant | (S)-2-aminomethyl-piperidine-1-carboxylic acid tert-butyl ester | 2.0 g | C(C)(C)(C)OC(=O)N1[C@@H](CCCC1)CN | C11H22N2O2
reactant | 2-chloro-5-cyanopyridine | 1.29 g | ClC1=NC=C(C=C1)C#N | C6H3ClN2
reactant | diisopropylethylamine | 1.21 g | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-[(5-Cyano-pyridin-2-ylamino)methyl]-piperidine-1-carboxylic acid tert butyl ester | 1.54 g | C(C)(C)(C)OC(=O)N1C(CCCC1)CNC1=NC=C(C=C1)C#N | C17H24N4O2
